### PR TITLE
Simplify comparable

### PR DESCRIPTION
**Pull request by Casteran**

### CODE REVIEW

**Comment by Casteran** [comment]
Simplification of Comparable and ON type classes

File: doc/hydras.tex [hunk 1]
```diff
@@ -351,8 +351,8 @@ \section{Comments on exercises and projects}
 
 \section{Acknowledgements}
 \label{sec:orgheadline5}
-    Many thanks to Yves Bertot, \'Evelyne Contejean,  Florian Hatat,  David Ilcinkas, 
-Pascal Manoury,  Karl Palmskog, Sylvain Salvati, Alan Schmitt and Théo Zimmermann for their help on the elaboration of this document, and to the
+    Many thanks to Yves Bertot, \'Evelyne Contejean, Jéremy Damour,   Florian Hatat,  David Ilcinkas, 
+Pascal Manoury,  Karl Palmskog, Sylvain Salvati, Alan Schmitt and Théo Zimmermann for their help on the elaboration of thislibrary and  document, and to the
```
Comment (Zimmi48) [inline doc/hydras.tex:355]:
```suggestion
Pascal Manoury,  Karl Palmskog, Sylvain Salvati, Alan Schmitt and Théo Zimmermann for their help on the elaboration of this library and  document, and to the
```

File: theories/ordinals/Epsilon0/T1.v [hunk 2]
```diff
@@ -2445,7 +2454,8 @@ Proof.
     + assert (H0 :alpha2 = zero).
       { eapply nf_of_finite; eauto. }
       subst; rewrite plus_compat; f_equal;  ring.
-    + simpl; rewrite !compare_refl, Nat.compare_refl, compare_refl.
+    + simpl. About compare_refl.
```
Comment (Zimmi48) [inline theories/ordinals/Epsilon0/T1.v:2457]: Do you want to leave this `About`?

File: theories/ordinals/Gamma0/Gamma0.v [hunk 3]
```diff
@@ -3680,12 +3680,20 @@ Defined.
 
 Notation omega := Omega.
 
+Definition le := clos_refl G0 lt.
+
+Instance Gamma0_comp: Comparable lt compare.
+Proof.
+  split. 
+  - apply lt_sto.
+  -  apply compare_correct.
```
Comment (Zimmi48) [inline theories/ordinals/Gamma0/Gamma0.v:3689]:
```suggestion
  - apply compare_correct.
```

File: theories/ordinals/Hydra/Omega2_Small.v [hunk 4]
```diff
@@ -4,14 +4,15 @@
...
+
 (** There is no measure into omega^2  for proving termination
 of all hydra battles *)
 
 
 Section Impossibility_Proof.
 
    (** Let us assume there is a variant from [Hydra] into [omega^2] 
-  for proving the   termination of all hydra  battles *)
+  for proving the termination of all hydra  battles *)
```
Comment (Zimmi48) [inline theories/ordinals/Hydra/Omega2_Small.v:15]:
```suggestion
  for proving the termination of all hydra battles *)
```

File: theories/ordinals/OrdinalNotations/Example_3PlusOmega.v [hunk 5]
```diff
@@ -12,7 +12,7 @@ Definition O3O  :=  ON_plus (FinOrd 3) Omega.
 Existing Instance O3O.
 
 Arguments ON_t : clear implicits.
-Arguments ON_t {A lt compare} _.
+Arguments ON_t {A lt  compare} _.
```
Comment (Zimmi48) [inline theories/ordinals/OrdinalNotations/Example_3PlusOmega.v:15]:
```suggestion
Arguments ON_t {A lt compare} _.
```

File: theories/ordinals/OrdinalNotations/ON_Generic.v [hunk 6]
```diff
@@ -17,116 +18,73 @@ Local Open Scope ON_scope.
...
+    intro x; eapply Acc_incl  with (fun x y =>  ON_lt (m x) (m  y)).
+    - intros y z H; apply H.
+    - eapply Acc_inverse_image, wf.
+  Qed.
 
-Definition ZeroLimitSucc_dec {A:Type}{lt: relation A}
-           {compare : A -> A -> comparison}
-           {on : ON lt compare} :=
+ #[using="All"]
+Definition ZeroLimitSucc_dec :=
```
Comment (Zimmi48) [inline theories/ordinals/OrdinalNotations/ON_Generic.v:61]:
```suggestion
  Definition ZeroLimitSucc_dec :=
```

File: theories/ordinals/OrdinalNotations/ON_Omega2.v [hunk 7]
```diff
@@ -84,8 +84,10 @@ Proof.
   - inversion_clear 1.
   + left; now left.
   +  now apply le_intror.
-  -  intros; apply lt_le_trans with (n, S n0); auto.
+  -  intros. About lt_le_trans.  eapply lt_le_trans .
```
Comment (Zimmi48) [inline theories/ordinals/OrdinalNotations/ON_Omega2.v:87]: Do you want to leave this `About`?

File: theories/ordinals/Prelude/Comparable.v [hunk 8]
```diff
@@ -1,37 +1,33 @@
...
           {lt: relation A}
-          {le: relation A}
           {compare : A -> A -> comparison}
-          {comparable : Comparable lt le compare}.
+          {comparable : Comparable lt compare}.
+  #[local] Notation le := (leq lt). 
 
+  (** For compatibility (provisionnal) *)
+  Definition  lt_trans := StrictOrder_Transitive.
+  Definition lt_irrefl := StrictOrder_Irreflexive.
```
Comment (Zimmi48) [inline theories/ordinals/Prelude/Comparable.v:23]: You could also try making this (deprecated) compatibility aliases. See doc at: https://coq.inria.fr/refman/using/libraries/writing.html#deprecating-library-objects-or-tactics

File: theories/ordinals/Prelude/MoreOrders.v [hunk 9]
```diff
@@ -1,89 +1,104 @@
...
+  Lemma Least_not_Limit  {sto : StrictOrder lt} x :
+    Least x -> ~ Limit x.
+  Proof.
+    intros H [[w H0] H1]. specialize (H w).
+    destruct H,  (StrictOrder_Irreflexive x); trivial.
+    now transitivity y.
+  Qed.
 
+End A_given.
+About le.
```
Comment (Zimmi48) [inline theories/ordinals/Prelude/MoreOrders.v:88]: Do you want to leave this `About`?

**Review by Zimmi48 — APPROVED** [review]
Sorry, I hadn't realized that you had requested a review from me. This looks very good to me!
